*-- pdngen: spice deck generated for chip 'chiplet1' PDN
*-- die chiplet1:  W/H: 0.002/0.003


.subckt chiplet1
+nd_pad_port_0_1
+nd_pad_port_0_3
+nd_pad_port_0_5
+nd_pad_port_1_0
+nd_pad_port_1_2
+nd_pad_port_1_4
+nd_pad_port_2_1
+nd_pad_port_2_3
+nd_pad_port_2_5
+nd_pad_port_3_0
+nd_pad_port_3_2
+nd_pad_port_3_4
*-- p/g port #: 12/12
+nd_1_0_3000_8666

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_1000_666 nd_1_0_3000_666 0.016324
rd_1_2_0_0_1 nd_1_0_3000_666 nd_1_0_5000_666 0.016324
rd_1_2_0_0_2 nd_1_0_5000_666 nd_1_0_7000_666 0.016324
rd_1_2_0_0_3 nd_1_0_7000_666 nd_1_0_9000_666 0.016324
rd_1_2_0_1_0 nd_1_0_1000_2000 nd_1_0_3000_2000 0.016324
rd_1_2_0_1_1 nd_1_0_3000_2000 nd_1_0_5000_2000 0.016324
rd_1_2_0_1_2 nd_1_0_5000_2000 nd_1_0_7000_2000 0.016324
rd_1_2_0_1_3 nd_1_0_7000_2000 nd_1_0_9000_2000 0.016324
rd_1_2_0_2_0 nd_1_0_1000_3333 nd_1_0_3000_3333 0.016324
rd_1_2_0_2_1 nd_1_0_3000_3333 nd_1_0_5000_3333 0.016324
rd_1_2_0_2_2 nd_1_0_5000_3333 nd_1_0_7000_3333 0.016324
rd_1_2_0_2_3 nd_1_0_7000_3333 nd_1_0_9000_3333 0.016324
rd_1_2_0_3_0 nd_1_0_1000_4666 nd_1_0_3000_4666 0.016324
rd_1_2_0_3_1 nd_1_0_3000_4666 nd_1_0_5000_4666 0.016324
rd_1_2_0_3_2 nd_1_0_5000_4666 nd_1_0_7000_4666 0.016324
rd_1_2_0_3_3 nd_1_0_7000_4666 nd_1_0_9000_4666 0.016324
rd_1_2_0_4_0 nd_1_0_1000_6000 nd_1_0_3000_6000 0.016324
rd_1_2_0_4_1 nd_1_0_3000_6000 nd_1_0_5000_6000 0.016324
rd_1_2_0_4_2 nd_1_0_5000_6000 nd_1_0_7000_6000 0.016324
rd_1_2_0_4_3 nd_1_0_7000_6000 nd_1_0_9000_6000 0.016324
rd_1_2_0_5_0 nd_1_0_1000_7333 nd_1_0_3000_7333 0.016324
rd_1_2_0_5_1 nd_1_0_3000_7333 nd_1_0_5000_7333 0.016324
rd_1_2_0_5_2 nd_1_0_5000_7333 nd_1_0_7000_7333 0.016324
rd_1_2_0_5_3 nd_1_0_7000_7333 nd_1_0_9000_7333 0.016324
rd_1_2_0_6_0 nd_1_0_1000_8666 nd_1_0_3000_8666 0.016324
rd_1_2_0_6_1 nd_1_0_3000_8666 nd_1_0_5000_8666 0.016324
rd_1_2_0_6_2 nd_1_0_5000_8666 nd_1_0_7000_8666 0.016324
rd_1_2_0_6_3 nd_1_0_7000_8666 nd_1_0_9000_8666 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_1000_666 nd_2_0_1000_2000 0.016324
rd_2_1_0_0_1 nd_2_0_1000_2000 nd_2_0_1000_3333 0.016324
rd_2_1_0_0_2 nd_2_0_1000_3333 nd_2_0_1000_4666 0.016324
rd_2_1_0_0_3 nd_2_0_1000_4666 nd_2_0_1000_6000 0.016324
rd_2_1_0_0_4 nd_2_0_1000_6000 nd_2_0_1000_7333 0.016324
rd_2_1_0_0_5 nd_2_0_1000_7333 nd_2_0_1000_8666 0.016324
rd_2_1_0_1_0 nd_2_0_3000_666 nd_2_0_3000_2000 0.016324
rd_2_1_0_1_1 nd_2_0_3000_2000 nd_2_0_3000_3333 0.016324
rd_2_1_0_1_2 nd_2_0_3000_3333 nd_2_0_3000_4666 0.016324
rd_2_1_0_1_3 nd_2_0_3000_4666 nd_2_0_3000_6000 0.016324
rd_2_1_0_1_4 nd_2_0_3000_6000 nd_2_0_3000_7333 0.016324
rd_2_1_0_1_5 nd_2_0_3000_7333 nd_2_0_3000_8666 0.016324
rd_2_1_0_2_0 nd_2_0_5000_666 nd_2_0_5000_2000 0.016324
rd_2_1_0_2_1 nd_2_0_5000_2000 nd_2_0_5000_3333 0.016324
rd_2_1_0_2_2 nd_2_0_5000_3333 nd_2_0_5000_4666 0.016324
rd_2_1_0_2_3 nd_2_0_5000_4666 nd_2_0_5000_6000 0.016324
rd_2_1_0_2_4 nd_2_0_5000_6000 nd_2_0_5000_7333 0.016324
rd_2_1_0_2_5 nd_2_0_5000_7333 nd_2_0_5000_8666 0.016324
rd_2_1_0_3_0 nd_2_0_7000_666 nd_2_0_7000_2000 0.016324
rd_2_1_0_3_1 nd_2_0_7000_2000 nd_2_0_7000_3333 0.016324
rd_2_1_0_3_2 nd_2_0_7000_3333 nd_2_0_7000_4666 0.016324
rd_2_1_0_3_3 nd_2_0_7000_4666 nd_2_0_7000_6000 0.016324
rd_2_1_0_3_4 nd_2_0_7000_6000 nd_2_0_7000_7333 0.016324
rd_2_1_0_3_5 nd_2_0_7000_7333 nd_2_0_7000_8666 0.016324
rd_2_1_0_4_0 nd_2_0_9000_666 nd_2_0_9000_2000 0.016324
rd_2_1_0_4_1 nd_2_0_9000_2000 nd_2_0_9000_3333 0.016324
rd_2_1_0_4_2 nd_2_0_9000_3333 nd_2_0_9000_4666 0.016324
rd_2_1_0_4_3 nd_2_0_9000_4666 nd_2_0_9000_6000 0.016324
rd_2_1_0_4_4 nd_2_0_9000_6000 nd_2_0_9000_7333 0.016324
rd_2_1_0_4_5 nd_2_0_9000_7333 nd_2_0_9000_8666 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_1000_666 nd_2_0_1000_666 0.005
rvd_1_0_0_1 nd_1_0_3000_666 nd_2_0_3000_666 0.005
rvd_1_0_0_2 nd_1_0_5000_666 nd_2_0_5000_666 0.005
rvd_1_0_0_3 nd_1_0_7000_666 nd_2_0_7000_666 0.005
rvd_1_0_0_4 nd_1_0_9000_666 nd_2_0_9000_666 0.005
rvd_1_0_1_0 nd_1_0_1000_2000 nd_2_0_1000_2000 0.005
rvd_1_0_1_1 nd_1_0_3000_2000 nd_2_0_3000_2000 0.005
rvd_1_0_1_2 nd_1_0_5000_2000 nd_2_0_5000_2000 0.005
rvd_1_0_1_3 nd_1_0_7000_2000 nd_2_0_7000_2000 0.005
rvd_1_0_1_4 nd_1_0_9000_2000 nd_2_0_9000_2000 0.005
rvd_1_0_2_0 nd_1_0_1000_3333 nd_2_0_1000_3333 0.005
rvd_1_0_2_1 nd_1_0_3000_3333 nd_2_0_3000_3333 0.005
rvd_1_0_2_2 nd_1_0_5000_3333 nd_2_0_5000_3333 0.005
rvd_1_0_2_3 nd_1_0_7000_3333 nd_2_0_7000_3333 0.005
rvd_1_0_2_4 nd_1_0_9000_3333 nd_2_0_9000_3333 0.005
rvd_1_0_3_0 nd_1_0_1000_4666 nd_2_0_1000_4666 0.005
rvd_1_0_3_1 nd_1_0_3000_4666 nd_2_0_3000_4666 0.005
rvd_1_0_3_2 nd_1_0_5000_4666 nd_2_0_5000_4666 0.005
rvd_1_0_3_3 nd_1_0_7000_4666 nd_2_0_7000_4666 0.005
rvd_1_0_3_4 nd_1_0_9000_4666 nd_2_0_9000_4666 0.005
rvd_1_0_4_0 nd_1_0_1000_6000 nd_2_0_1000_6000 0.005
rvd_1_0_4_1 nd_1_0_3000_6000 nd_2_0_3000_6000 0.005
rvd_1_0_4_2 nd_1_0_5000_6000 nd_2_0_5000_6000 0.005
rvd_1_0_4_3 nd_1_0_7000_6000 nd_2_0_7000_6000 0.005
rvd_1_0_4_4 nd_1_0_9000_6000 nd_2_0_9000_6000 0.005
rvd_1_0_5_0 nd_1_0_1000_7333 nd_2_0_1000_7333 0.005
rvd_1_0_5_1 nd_1_0_3000_7333 nd_2_0_3000_7333 0.005
rvd_1_0_5_2 nd_1_0_5000_7333 nd_2_0_5000_7333 0.005
rvd_1_0_5_3 nd_1_0_7000_7333 nd_2_0_7000_7333 0.005
rvd_1_0_5_4 nd_1_0_9000_7333 nd_2_0_9000_7333 0.005
rvd_1_0_6_0 nd_1_0_1000_8666 nd_2_0_1000_8666 0.005
rvd_1_0_6_1 nd_1_0_3000_8666 nd_2_0_3000_8666 0.005
rvd_1_0_6_2 nd_1_0_5000_8666 nd_2_0_5000_8666 0.005
rvd_1_0_6_3 nd_1_0_7000_8666 nd_2_0_7000_8666 0.005
rvd_1_0_6_4 nd_1_0_9000_8666 nd_2_0_9000_8666 0.005
*-- via layer 1-2: net: 0 VSS net
id_0_0_0_0 nd_1_0_1000_666 0 pwl(0 0.0 4.778e-01ns 0.0  5.278e-01ns 3.8e-01  5.731e-01ns 3.8e-01  6.231e-01ns 0.0)
rdesr_0_0_0_0 nd_1_0_1000_666 nd_1_0_1000_666_ci 2.47112
cd_0_0_0_0 nd_1_0_1000_666_ci 0 3.83896e-11
id_0_0_0_1 nd_1_0_3000_666 0 pwl(0 0.0 4.360e-01ns 0.0  4.860e-01ns 6.2e-03  7.448e-01ns 6.2e-03  7.948e-01ns 0.0)
rdesr_0_0_0_1 nd_1_0_3000_666 nd_1_0_3000_666_ci 47.0201
cd_0_0_0_1 nd_1_0_3000_666_ci 0 2.40976e-12
id_0_0_0_2 nd_1_0_5000_666 0 pwl(0 0.0 1.987e-01ns 0.0  2.487e-01ns 3.3e-02  9.028e-01ns 3.3e-02  9.528e-01ns 0.0)
rdesr_0_0_0_2 nd_1_0_5000_666 nd_1_0_5000_666_ci 3.85238
cd_0_0_0_2 nd_1_0_5000_666_ci 0 2.3073e-11
id_0_0_0_3 nd_1_0_7000_666 0 pwl(0 0.0 6.612e-01ns 0.0  7.112e-01ns 3.1e-02  9.043e-01ns 3.1e-02  9.543e-01ns 0.0)
rdesr_0_0_0_3 nd_1_0_7000_666 nd_1_0_7000_666_ci 11.7944
cd_0_0_0_3 nd_1_0_7000_666_ci 0 1.6301e-11
id_0_0_0_4 nd_1_0_9000_666 0 pwl(0 0.0 2.290e-01ns 0.0  2.790e-01ns 4.8e-02  8.355e-01ns 4.8e-02  8.855e-01ns 0.0)
rdesr_0_0_0_4 nd_1_0_9000_666 nd_1_0_9000_666_ci 3.08542
cd_0_0_0_4 nd_1_0_9000_666_ci 0 3.07726e-11
id_0_0_0_5 nd_1_0_1000_2000 0 pwl(0 0.0 6.949e-01ns 0.0  7.449e-01ns 5.8e-02  9.187e-01ns 5.8e-02  9.687e-01ns 0.0)
rdesr_0_0_0_5 nd_1_0_1000_2000 nd_1_0_1000_2000_ci 6.88411
cd_0_0_0_5 nd_1_0_1000_2000_ci 0 1.43461e-11
id_0_0_0_6 nd_1_0_3000_2000 0 pwl(0 0.0 2.573e-01ns 0.0  3.073e-01ns 4.3e-03  8.605e-01ns 4.3e-03  9.105e-01ns 0.0)
rdesr_0_0_0_6 nd_1_0_3000_2000 nd_1_0_3000_2000_ci 34.3489
cd_0_0_0_6 nd_1_0_3000_2000_ci 0 2.99292e-12
id_0_0_0_7 nd_1_0_5000_2000 0 pwl(0 0.0 2.751e-01ns 0.0  3.251e-01ns 8.9e-03  8.755e-01ns 8.9e-03  9.255e-01ns 0.0)
rdesr_0_0_0_7 nd_1_0_5000_2000 nd_1_0_5000_2000_ci 16.7606
cd_0_0_0_7 nd_1_0_5000_2000_ci 0 6.30459e-12
id_0_0_0_8 nd_1_0_7000_2000 0 pwl(0 0.0 7.355e-01ns 0.0  7.855e-01ns 1.9e-01  8.742e-01ns 1.9e-01  9.242e-01ns 0.0)
rdesr_0_0_0_8 nd_1_0_7000_2000 nd_1_0_7000_2000_ci 3.33857
cd_0_0_0_8 nd_1_0_7000_2000_ci 0 4.12625e-11
id_0_0_0_9 nd_1_0_9000_2000 0 pwl(0 0.0 8.825e-01ns 0.0  9.325e-01ns 2.2e-01  9.825e-01ns 0.0)
rdesr_0_0_0_9 nd_1_0_9000_2000 nd_1_0_9000_2000_ci 8.1011
cd_0_0_0_9 nd_1_0_9000_2000_ci 0 5.24283e-12
id_0_0_0_10 nd_1_0_1000_3333 0 pwl(0 0.0 4.471e-01ns 0.0  4.971e-01ns 3.9e-01  5.305e-01ns 3.9e-01  5.805e-01ns 0.0)
rdesr_0_0_0_10 nd_1_0_1000_3333 nd_1_0_1000_3333_ci 2.76174
cd_0_0_0_10 nd_1_0_1000_3333_ci 0 5.25227e-11
id_0_0_0_11 nd_1_0_3000_3333 0 pwl(0 0.0 4.624e-01ns 0.0  5.124e-01ns 1.1e-02  7.718e-01ns 1.1e-02  8.218e-01ns 0.0)
rdesr_0_0_0_11 nd_1_0_3000_3333 nd_1_0_3000_3333_ci 26.9354
cd_0_0_0_11 nd_1_0_3000_3333_ci 0 5.5043e-12
id_0_0_0_12 nd_1_0_5000_3333 0 pwl(0 0.0 4.794e-01ns 0.0  5.294e-01ns 4.0e-02  6.332e-01ns 4.0e-02  6.832e-01ns 0.0)
rdesr_0_0_0_12 nd_1_0_5000_3333 nd_1_0_5000_3333_ci 14.5406
cd_0_0_0_12 nd_1_0_5000_3333_ci 0 1.23689e-11
id_0_0_0_13 nd_1_0_7000_3333 0 pwl(0 0.0 1.746e-01ns 0.0  2.246e-01ns 1.5e-02  7.785e-01ns 1.5e-02  8.285e-01ns 0.0)
rdesr_0_0_0_13 nd_1_0_7000_3333 nd_1_0_7000_3333_ci 10.2158
cd_0_0_0_13 nd_1_0_7000_3333_ci 0 1.51332e-11
id_0_0_0_14 nd_1_0_9000_3333 0 pwl(0 0.0 5.796e-02ns 0.0  1.080e-01ns 4.0e-02  3.489e-01ns 4.0e-02  3.989e-01ns 0.0)
rdesr_0_0_0_14 nd_1_0_9000_3333 nd_1_0_9000_3333_ci 7.726
cd_0_0_0_14 nd_1_0_9000_3333_ci 0 2.42145e-11
id_0_0_0_15 nd_1_0_1000_4666 0 pwl(0 0.0 6.547e-01ns 0.0  7.047e-01ns 1.3e-01  9.007e-01ns 1.3e-01  9.507e-01ns 0.0)
rdesr_0_0_0_15 nd_1_0_1000_4666 nd_1_0_1000_4666_ci 2.71911
cd_0_0_0_15 nd_1_0_1000_4666_ci 0 3.30946e-11
id_0_0_0_16 nd_1_0_3000_4666 0 pwl(0 0.0 6.658e-01ns 0.0  7.158e-01ns 7.1e-02  9.081e-01ns 7.1e-02  9.581e-01ns 0.0)
rdesr_0_0_0_16 nd_1_0_3000_4666 nd_1_0_3000_4666_ci 5.21336
cd_0_0_0_16 nd_1_0_3000_4666_ci 0 1.79943e-11
id_0_0_0_17 nd_1_0_5000_4666 0 pwl(0 0.0 2.334e-01ns 0.0  2.834e-01ns 1.1e-02  8.386e-01ns 1.1e-02  8.886e-01ns 0.0)
rdesr_0_0_0_17 nd_1_0_5000_4666 nd_1_0_5000_4666_ci 13.7433
cd_0_0_0_17 nd_1_0_5000_4666_ci 0 7.04463e-12
id_0_0_0_18 nd_1_0_7000_4666 0 pwl(0 0.0 3.796e-01ns 0.0  4.296e-01ns 5.0e-02  9.470e-01ns 5.0e-02  9.970e-01ns 0.0)
rdesr_0_0_0_18 nd_1_0_7000_4666 nd_1_0_7000_4666_ci 3.18662
cd_0_0_0_18 nd_1_0_7000_4666_ci 0 3.69939e-11
id_0_0_0_19 nd_1_0_9000_4666 0 pwl(0 0.0 7.930e-01ns 0.0  8.430e-01ns 3.2e-01  8.915e-01ns 3.2e-01  9.415e-01ns 0.0)
rdesr_0_0_0_19 nd_1_0_9000_4666 nd_1_0_9000_4666_ci 2.89608
cd_0_0_0_19 nd_1_0_9000_4666_ci 0 7.41919e-12
id_0_0_0_20 nd_1_0_1000_6000 0 pwl(0 0.0 4.875e-01ns 0.0  5.375e-01ns 1.6e-01  5.842e-01ns 1.6e-01  6.342e-01ns 0.0)
rdesr_0_0_0_20 nd_1_0_1000_6000 nd_1_0_1000_6000_ci 5.91807
cd_0_0_0_20 nd_1_0_1000_6000_ci 0 2.56413e-11
id_0_0_0_21 nd_1_0_3000_6000 0 pwl(0 0.0 5.031e-01ns 0.0  5.531e-01ns 5.9e-02  8.042e-01ns 5.9e-02  8.542e-01ns 0.0)
rdesr_0_0_0_21 nd_1_0_3000_6000 nd_1_0_3000_6000_ci 5.02629
cd_0_0_0_21 nd_1_0_3000_6000_ci 0 2.30369e-11
id_0_0_0_22 nd_1_0_5000_6000 0 pwl(0 0.0 3.386e-01ns 0.0  3.886e-01ns 2.4e-02  6.421e-01ns 2.4e-02  6.921e-01ns 0.0)
rdesr_0_0_0_22 nd_1_0_5000_6000 nd_1_0_5000_6000_ci 12.399
cd_0_0_0_22 nd_1_0_5000_6000_ci 0 9.66735e-12
id_0_0_0_23 nd_1_0_7000_6000 0 pwl(0 0.0 3.459e-01ns 0.0  3.959e-01ns 4.9e-02  9.297e-01ns 4.9e-02  9.797e-01ns 0.0)
rdesr_0_0_0_23 nd_1_0_7000_6000 nd_1_0_7000_6000_ci 3.12423
cd_0_0_0_23 nd_1_0_7000_6000_ci 0 3.92406e-11
id_0_0_0_24 nd_1_0_9000_6000 0 pwl(0 0.0 3.672e-01ns 0.0  4.172e-01ns 1.1e-01  4.819e-01ns 1.1e-01  5.319e-01ns 0.0)
rdesr_0_0_0_24 nd_1_0_9000_6000 nd_1_0_9000_6000_ci 6.97366
cd_0_0_0_24 nd_1_0_9000_6000_ci 0 2.22029e-11
id_0_0_0_25 nd_1_0_1000_7333 0 pwl(0 0.0 5.122e-01ns 0.0  5.622e-01ns 3.3e-01  6.172e-01ns 3.3e-01  6.672e-01ns 0.0)
rdesr_0_0_0_25 nd_1_0_1000_7333 nd_1_0_1000_7333_ci 2.61338
cd_0_0_0_25 nd_1_0_1000_7333_ci 0 6.05678e-11
id_0_0_0_26 nd_1_0_3000_7333 0 pwl(0 0.0 7.426e-02ns 0.0  1.243e-01ns 1.3e-04  7.847e-01ns 1.3e-04  8.347e-01ns 0.0)
rdesr_0_0_0_26 nd_1_0_3000_7333 nd_1_0_3000_7333_ci 945.14
cd_0_0_0_26 nd_1_0_3000_7333_ci 0 1.71386e-13
id_0_0_0_27 nd_1_0_5000_7333 0 pwl(0 0.0 5.408e-01ns 0.0  5.908e-01ns 2.4e-01  6.545e-01ns 2.4e-01  7.045e-01ns 0.0)
rdesr_0_0_0_27 nd_1_0_5000_7333 nd_1_0_5000_7333_ci 3.35411
cd_0_0_0_27 nd_1_0_5000_7333_ci 0 4.94043e-11
id_0_0_0_28 nd_1_0_7000_7333 0 pwl(0 0.0 1.089e-01ns 0.0  1.589e-01ns 1.8e-02  7.089e-01ns 1.8e-02  7.589e-01ns 0.0)
rdesr_0_0_0_28 nd_1_0_7000_7333 nd_1_0_7000_7333_ci 8.4281
cd_0_0_0_28 nd_1_0_7000_7333_ci 0 8.13072e-12
id_0_0_0_29 nd_1_0_9000_7333 0 pwl(0 0.0 5.702e-01ns 0.0  6.202e-01ns 4.9e-02  8.529e-01ns 4.9e-02  9.029e-01ns 0.0)
rdesr_0_0_0_29 nd_1_0_9000_7333 nd_1_0_9000_7333_ci 6.56064
cd_0_0_0_29 nd_1_0_9000_7333_ci 0 8.65372e-14
id_0_0_0_30 nd_1_0_1000_8666 0 pwl(0 0.0 7.158e-01ns 0.0  7.658e-01ns 7.8e-02  9.266e-01ns 7.8e-02  9.766e-01ns 0.0)
rdesr_0_0_0_30 nd_1_0_1000_8666 nd_1_0_1000_8666_ci 5.50827
cd_0_0_0_30 nd_1_0_1000_8666_ci 0 7.72336e-13
id_0_0_0_31 nd_1_0_3000_8666 0 pwl(0 0.0 2.813e-01ns 0.0  3.313e-01ns 9.8e-04  8.821e-01ns 9.8e-04  9.321e-01ns 0.0)
rdesr_0_0_0_31 nd_1_0_3000_8666 nd_1_0_3000_8666_ci 153.184
cd_0_0_0_31 nd_1_0_3000_8666_ci 0 6.99211e-13
id_0_0_0_32 nd_1_0_5000_8666 0 pwl(0 0.0 2.972e-01ns 0.0  3.472e-01ns 1.4e-02  8.925e-01ns 1.4e-02  9.425e-01ns 0.0)
rdesr_0_0_0_32 nd_1_0_5000_8666 nd_1_0_5000_8666_ci 10.4715
cd_0_0_0_32 nd_1_0_5000_8666_ci 0 1.05855e-12
id_0_0_0_33 nd_1_0_7000_8666 0 pwl(0 0.0 3.101e-01ns 0.0  3.601e-01ns 3.8e-02  6.101e-01ns 3.8e-02  6.601e-01ns 0.0)
rdesr_0_0_0_33 nd_1_0_7000_8666 nd_1_0_7000_8666_ci 7.86631
cd_0_0_0_33 nd_1_0_7000_8666_ci 0 1.80525e-11
id_0_0_0_34 nd_1_0_9000_8666 0 pwl(0 0.0 1.931e-03ns 0.0  5.193e-02ns 1.1e-01  1.267e-01ns 1.1e-01  1.767e-01ns 0.0)
rdesr_0_0_0_34 nd_1_0_9000_8666 nd_1_0_9000_8666_ci 6.28985
cd_0_0_0_34 nd_1_0_9000_8666_ci 0 7.24729e-12

*-- intentional decap
cd_add_cap0 nd_1_0_3000_2000 nd0 'dcap_int_val120'
cd_add_cap1 nd_1_0_7000_2000 nd1 'dcap_int_val121'
cd_add_cap2 nd_1_0_3000_4666 nd2 'dcap_int_val122'
cd_add_cap3 nd_1_0_7000_4666 nd3 'dcap_int_val123'
cd_add_cap4 nd_1_0_3000_7333 nd4 'dcap_int_val124'
cd_add_cap5 nd_1_0_7000_7333 nd5 'dcap_int_val125'
rd_add0 nd0 0 'esr1'
rd_add1 nd1 0 'esr2'
rd_add2 nd2 0 'esr3'
rd_add3 nd3 0 'esr4'
rd_add4 nd4 0 'esr5'
rd_add5 nd5 0 'esr6'

.include 'moscap_esr.txt'
.include 'int_param_dcap.txt'


*-- p/g pad array
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xd_pad_0_3 nd_pad_port_0_3 nd_pad_0_3 ubump_subckt
xd_pad_0_5 nd_pad_port_0_5 nd_pad_0_5 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xd_pad_1_4 nd_pad_port_1_4 nd_pad_1_4 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xd_pad_2_3 nd_pad_port_2_3 nd_pad_2_3 ubump_subckt
xd_pad_2_5 nd_pad_port_2_5 nd_pad_2_5 ubump_subckt
xd_pad_3_0 nd_pad_port_3_0 nd_pad_3_0 ubump_subckt
xd_pad_3_2 nd_pad_port_3_2 nd_pad_3_2 ubump_subckt
xd_pad_3_4 nd_pad_port_3_4 nd_pad_3_4 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_1000_3333  0.001
rd_pad2via_0_3 nd_pad_0_3 nd_2_0_1000_6000  0.001
rd_pad2via_0_5 nd_pad_0_5 nd_2_0_1000_8666  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_3000_2000  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_3000_4666  0.001
rd_pad2via_1_4 nd_pad_1_4 nd_2_0_3000_7333  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_5000_3333  0.001
rd_pad2via_2_3 nd_pad_2_3 nd_2_0_5000_6000  0.001
rd_pad2via_2_5 nd_pad_2_5 nd_2_0_5000_8666  0.001
rd_pad2via_3_0 nd_pad_3_0 nd_2_0_7000_2000  0.001
rd_pad2via_3_2 nd_pad_3_2 nd_2_0_7000_4666  0.001
rd_pad2via_3_4 nd_pad_3_4 nd_2_0_7000_7333  0.001

.ends chiplet1
